US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.85 g) and (4-isopropylphenyl)[(1-phenylpyrazol-4-yl)methyl]amine (0.87 g) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-N-[(1-phenylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.21 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.85 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | (4-isopropylphenyl)[(1-phenylpyrazol-4-yl)methyl]amine | 0.87 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=NN(C1)C1=CC=CC=C1 | C19H21N3
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(1-phenylpyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.21 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(C)C | C37H37N3O2
